US07351733B2
6-Chloro-N-(4,6-dimethoxypyrimidin-2-yl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine was prepared from 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-amine and 4,6-dimethoxy-2-methylsulfonylpyrimidine in a similar manner as described above to give 8 mg (10% yield) of a pale yellow solid. 1H-NMR (CDCl3): δ 8.79 (s, 1H), 7.45 (s, 1H), 7.18 (dd, 1H), 7.08 (dd, 1H), 5.50 (s, 1H), 5.24 (m, 1H), 5.18 (m, 1H), 3.88 (2 s, 6H), 2.70 (m, 2H), 2.28 (m, 1H), 2.04-1.83 (m, 3H); MS m/z 359 (M+1).

reactant | 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-amine | ClC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13ClN2
reactant | 4,6-dimethoxy-2-methylsulfonylpyrimidine | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
product | 6-Chloro-N-(4,6-dimethoxypyrimidin-2-yl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine | ClC=1C=C2C=3CCCC(C3NC2=CC1)NC1=NC(=CC(=N1)OC)OC | C18H19ClN4O2
